US09278950B2
Step 3. 3-{[(Benzyloxy)carbonyl]amino}-7-vinylquinoline-2-carboxylic acid
A vial containing the crude 3-amino-7-vinylquinoline-2-carboxylic acid (0.75 g, 3.5 mmol), water (60 mL) and NaOH (7.0 g, 180 mmol) was cooled to −10° C. Benzyl chloroformate (5.0 mL, 33 mmol) was added slowly to the mixture. The mixture was allowed to warm to room temperature and stirred for 1 h. The organic solvent was then removed under reduced pressure. The remaining aqueous layer was neutralized with aq. HCl. The yellow precipitate formed was collected by vacuum filtration, and washed with cold MeOH to give the sub-title compound (1.12 g, 92%) as light yellow powder. LCMS calc. for C20H17N2O4 (M+H)+: m/z=349.1. Found: 349.1.

reactant | 3-amino-7-vinylquinoline-2-carboxylic acid | 3.5 mmol, 0.75 g | NC=1C(=NC2=CC(=CC=C2C1)C=C)C(=O)O | C12H10N2O2
reactant | NaOH | 180 mmol, 7.0 g | [OH-].[Na+]
reactant | Benzyl chloroformate | 33 mmol, 5.0 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 60 mL | O | H2O
product | 3-{[(Benzyloxy)carbonyl]amino}-7-vinylquinoline-2-carboxylic acid | 1.12 g, 92% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)C=C)C(=O)O | C20H16N2O4
